US08053212B1
5′-p-Toluoylthymidine (FIG. 3)
p-Toluoyl chloride (6.78 mL, 51.25 mmol) was added dropwise (to keep the temperature of the mixture below 5° C.) to a cooled (ice/water bath) stirred suspension of thymidine (12.112 g, 50 mmol) in anhydrous pyridine (50 mL) under an argon atmosphere. After complete addition, the bath was removed and the mixture was allowed to warm to room temperature. After 16.5 h, thin layer chromatography (using EtOAc as eluant) showed that no starting material was remaining. The mixture was poured into ice (50 g), and after the ice melted, a white precipitate was collected by filtration. The aqueous filtrate was extracted with CH2Cl2 (3×50 mL) and the combined organic extracts were washed with 1M HCl (3×50 mL), saturated aqueous NaHCO3 (3×50 mL) and water (3×50 mL). The CH2Cl2 solution was dried (MgSO4), filtered and the filtrate concentrated under reduced pressure to give a pale yellow foam (3.00 g). The solid material was combined, and recrystallized in ca. 2 g batches from CH2Cl2 (300 mL). After each filtration, the volume of the filtrate was reduced to 100 mL and cooled. A white solid crystallizing from solution was collected by filtration. This filtrate was used as the solvent for the next crystallization. This was done multiple times. The insoluble solids removed after each crystallization were combined and recrystallized as above.

reactant | p-Toluoyl chloride | 51.25 mmol, 6.78 mL | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
reactant | thymidine | 50 mmol, 12.112 g | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
solvent | pyridine | 50 mL | N1=CC=CC=C1 | C5H5N
product | 5′-p-Toluoylthymidine | 3.00 g | C1(=CC=C(C=C1)C(=O)C([C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)O)C | C18H20N2O6
